US07153997B2
A mixture of compound methyl[3,5-dibromo-4-(3-formyl-4-hydroxyphenoxy)phenyl]acetate (250 mg, 0.56 mmol) and trifluoroacetic acid (5.5 mL) was treated with triethylsilane (0.34 mL, 2.13 mmol) and the reaction mixture was stirred for 16 hours at room temperature. The reaction was concentrated and co-evaporated (toluene, dichloromethane), which gave a residue that was filtrated through a pad of silica. Purification on a column (MPLC, silica, gradient elution: n-heptane/ethyl acetate from 1:0 to 4:1) gave 110 mg (46%) of methyl[3,5-dibromo-4-(4-hydroxy-3-methyl-phenoxy)phenyl]acetate.

reactant | methyl[3,5-dibromo-4-(3-formyl-4-hydroxyphenoxy)phenyl]acetate | 0.56 mmol, 250 mg | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)O)C=O)Br)=O | C16H12Br2O5
reactant | trifluoroacetic acid | 5.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 2.13 mmol, 0.34 mL | C(C)[SiH](CC)CC | C6H16Si
product | methyl[3,5-dibromo-4-(4-hydroxy-3-methyl-phenoxy)phenyl]acetate | 110 mg, 46% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)O)C)Br)=O | C16H14Br2O4
